US07612108B2
After thionyl chloride was added to methanol, 5-bromo-3-methylthiophene-2-carboxylic acid was added thereto and the resulting solution was heated and refluxed to obtain methyl 5-bromo-3-methylthiophene-2-carboxylate. EI: 234, 236.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 5-bromo-3-methylthiophene-2-carboxylic acid | BrC1=CC(=C(S1)C(=O)O)C | C6H5BrO2S
reactant | methanol | CO | CH4O
product | methyl 5-bromo-3-methylthiophene-2-carboxylate | BrC1=CC(=C(S1)C(=O)OC)C | C7H7BrO2S
